US04216152
3-Chloro-2-methyl propene was reacted with o-nitrophenol to yield 2-(2-methylprop-1-en-oxy) nitrobenzene; which was reduced to the corresponding aniline; and reacted with N-chloromethyl-2-pyrrolidone to form the corresponding N-methylenepyrrolidonyl derivative.

reactant | 3-Chloro-2-methyl propene | ClCC(=C)C | C4H7Cl
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 2-(2-methylprop-1-en-oxy) nitrobenzene | CC(=COC1=C(C=CC=C1)[N+](=O)[O-])C | C10H11NO3
